US05650428
The procedure described in Example 65 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-hydroxypropanamide (1.32 g) was reacted with mesyl chloride to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide (1.04 g).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-hydroxypropanamide | 1.32 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CO | C19H21ClN2O6S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide | 1.04 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COS(=O)(=O)C | C20H23ClN2O8S2
